* /home/pramod/desktop/esim/esim-1.1.3/src/subcircuitlibrary/r21/r21.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 vdd net-_m1-pad2_ net-_m1-pad1_ vdd CMOSP W=.9u L=.18u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ gnd gnd CMOSN W=.36u L=.18u M=1
m3 net-_m3-pad1_ net-_m1-pad1_ net-_m3-pad3_ vdd CMOSP W=.9u L=.18u M=1
m4 net-_m3-pad3_ net-_m1-pad1_ net-_m4-pad3_ net-_m3-pad3_ CMOSN W=.36u L=.18u M=1
m6 net-_m3-pad3_ net-_m1-pad2_ net-_m4-pad3_ vdd CMOSP W=.9u L=.18u M=1
m5 net-_m3-pad1_ net-_m1-pad2_ net-_m3-pad3_ net-_m3-pad3_ CMOSN W=.36u L=.18u M=1
* u1  net-_m1-pad2_ vdd gnd net-_m3-pad1_ net-_m4-pad3_ net-_m3-pad3_ port
.tran 20e-12 5e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
